US08835602B2
B. Synthesis of Boc-Ala-Ala-Ala-NH—(CH2)3—OH
The desired compound was synthesized by the procedure of Example 4 using Boc-Ala-Ala-Ala-OH and H2N—(CH2)3—OH except that the solvent was a mixture of THF and DMF (8 h). In a typical reaction of 4.59 mmol scale, the desired product was obtained in good yields, (1.401 gm, 79%) as a solid (m.p.—201° C.) after purification by silica gel flash column chromatography (MeOH:EtOAc—1:25). TLC (MeOH:DCM—1: 3; Rf—0.53).

reactant | Boc-Ala-Ala-Ala-OH | N([C@@H](C)C(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C14H25N3O6
reactant | H2N—(CH2)3—OH | NCCCO | C3H9NO
reactant | THF | C1CCOC1 | C4H8O
solvent | DMF | CN(C)C=O | C3H7NO
product | Boc-Ala-Ala-Ala-NH—(CH2)3—OH | N([C@@H](C)C(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)NCCCO)C(=O)OC(C)(C)C | C17H32N4O6
